US07994185B2
N-{3-[2-(1,1-Dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide
To a suspension of N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide (21.54 g, 40 mmol) in 1,4-dioxane (300 mL) was bubble with argon for 10 min. The reaction mixture was treated with 2N dimethylzinc in toluene (40 mL, 80 mmol) under argon. The reaction mixture was treated with PdCl2(dppf).CH2Cl2 adduct (0.326 g, 0.400 mmol) and heated to 80° C. After 2 h, the reaction was check by HPLC. The reaction was cooled to room temperature and slowly added MeOH until reaction was quenched. After quenched, the reaction mixture was diluted with NaHCO3 (sat'd) (200 mL) and extracted with EtOAc (3×, 200 mL). The EtOAc layers were stirred with activated carbon (darco G-60, 100 mesh, powder) for 1 h. The reaction mixture was filtered through pad of SiO2 (3″×3″) and washed with EtOAc. The reaction mixture was concentrated. IPA (350 mL) was to the reaction mixture and heated to reflux. After 2 h, the reaction mixture was cooled to room temperature and filtered and washed with IPA and water (200 mL). The product was dried under vacuum at 60° C. for 2 days. Title compound was obtained as an off-white solid (17.5 g, 80% yield). 1H NMR (400 MHz, DMSO-d6): δ 10.75 (s, 1H), 8.47 (d, J=5.3 Hz, 1H), 7.52-7.58 (m, 1H), 7.40-7.50 (m, 4H), 7.29 (t, J=7.8 Hz, 1H), 6.64 (d, J=5.3 Hz, 1H), 2.58 (s, 3H), 1.42 (s, 9H). MS (ESI): 519 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | 40 mmol, 21.54 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H18ClF3N4O2S2
reactant | dimethylzinc | 2N | C[Zn]C
reactant | toluene | 80 mmol, 40 mL | C1(=CC=CC=C1)C | C7H8
reactant | CH2Cl2 | 0.400 mmol, 0.326 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | MeOH | CO | CH4O
product | N-{3-[2-(1,1-Dimethylethyl)-5-(2-methyl-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,5-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC(=NC=C1)C | C24H21F3N4O2S2
